Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
Bactrim / dust and dander / nickel / phentermine / Chantix / 
NSAIDS (Non-Steroidal Anti-Inflammatory Drug) / glutten , dairy, 
wheat, wheat
 
Attending: ___.
 
Chief Complaint:
chronic right knee pain
 
Major Surgical or Invasive Procedure:
right total knee arthroplasty ___, ___

 
History of Present Illness:
Ms. ___ has a long standing history of right knee pain that 
was refractory to conservative measures. She had previously done 
well with left TKA performed several years ago
 
Past Medical History:
1)  hypertension
2)  severe obstructive sleep apnea on CPAP
3)  hyperlipidemia
4)  asthma with no recent flares 
5)  osteoarthritis of lower extremity joints with right knee 
pain
6)  hepatic steatosis by ultrasound study
7)  iron deficiency with saturation of 15%
8)  vitamin D deficiency
9)  hyperuricemia
10) history of positive ___ followed by rheumatology
11) history of blood transfusion

Her surgical history is noted for:
R Total Knee Arthroplasty
Sleeve gastrectomy
left total knee replacement ___
laparoscopic adjustable gastric band - Allergan Vanguard ___
carpal tunnel release of the right hand ___
breast reduction in ___
Excision of a benign neck tumor (parotidectomy) in ___
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
Well appearing in no acute distress  
Afebrile with stable vital signs  
Pain well-controlled  
Respiratory: CTAB  
Cardiovascular: RRR  
Gastrointestinal: NT/ND  
Genitourinary: Voiding independently  
Neurologic: Intact with no focal deficits  
Psychiatric: Pleasant, A&O x3  
Musculoskeletal Lower Extremity:  
* Incision healing well with staples intact
* Thigh full but soft  
* No calf tenderness  
* ___ strength  
* SILT, NVI distally  
* Toes warm  
 
Pertinent Results:
___ 06:16AM BLOOD Hgb-8.4* Hct-26.6*
___ 06:17AM BLOOD Hct-29.1*
___ 07:05AM BLOOD Hgb-9.7* Hct-29.9*
___ 06:30AM BLOOD Hgb-10.3* Hct-31.3*
___ 07:20AM BLOOD Hgb-11.4 Hct-35.2
___ 06:16AM BLOOD ___
___ 06:17AM BLOOD ___
___ 07:05AM BLOOD ___
___ 06:30AM BLOOD ___
___ 10:36AM BLOOD ___
___ 06:17AM BLOOD Glucose-99 UreaN-7 Creat-0.6 Na-140 K-4.2 
Cl-98 HCO3-25 AnGap-17
___ 03:05PM BLOOD Glucose-104* UreaN-6 Creat-0.6 Na-136 
K-4.2 Cl-97 HCO3-28 AnGap-11
___ 07:20AM BLOOD Creat-0.7
___ 06:17AM BLOOD Mg-2.0
___ 03:05PM BLOOD Albumin-3.8 Calcium-8.9 Phos-2.9 Mg-1.8
 
Brief Hospital Course:
The patient was admitted to the orthopedic surgery service and 
was taken to the operating room for an uncomplicated R TKA. 
Please see separately dictated operative report for details. The 
surgery was uncomplicated and the patient tolerated the 
procedure well. Patient received perioperative IV antibiotics. 
Pre-op vancomycin and cefazolin with 3 doses of post-operative 
cefazolin. 

Postoperative course was remarkable for the following:  
POD#0 overnight, the patient hypertensive and tachycardic and 
was given Metoprolol (oral and IV) to control. 
POD#1, the patient's pain was not controlled and Dilaudid was 
increased to ___ mg every 3 hours as needed.  She was sent for 
an ultrasound of her operative extremity due to calf pain.  
Ultrasound showed no blood clot.
POD 2 Continued to have pain and HR sustained in 130s. CTA chest 
obtained and negative for PE. Labs wnl. EKG wnl. Nebulizers 
given with HR down to 110s when sleeping
POD 3, pain diffusely, dressing changed, small hematoma but not 
signs of infection. XR of the entire RLE ordered given pain and 
negative. 
POD #4, patient as given 500ml NS bolus for tachycardia and 
started on continuous fluids. EKG showed sinus tach, HR 111. 
Patient encouraged to increase PO fluid intake. Patient had 
complaint of heartburn and requested for Nexium. Due to 
medication being non-formulary, TUMS and maalax were started. 
Patient stated Pantoprazole to be ineffective and was switched 
to Pepcid standing. Gabapentin was also added for pain 
management. 
POD #5, no acute events. Patient expressed readiness for 
discharge. Advised to follow up with PCP regarding elevated 
blood pressures and tachycardia (SBP 130s-150s and HR 100s-110s 
at rest - baseline 105 pre-op). Work-up negative, including 
CTPE.

Otherwise, pain was controlled with a combination of IV and oral 
pain medications. The patient received Coumadin daily for DVT 
prophylaxis starting on the morning of POD#1. Coumadin was dosed 
based on daily INR levels with an INR goal of 1.8-2.2. The 
surgical dressing was changed on POD#1 and will be changed daily 
until no drainage is noted. The patient was seen daily by 
physical therapy. Labs were checked throughout the hospital 
course and repleted accordingly. At the time of discharge the 
patient was tolerating a regular diet and feeling well. The 
patient was afebrile with stable vital signs. The patient's 
hematocrit was acceptable and pain was adequately controlled on 
an oral regimen. The operative extremity was neurovascularly 
intact and the dressing was intact.  

The patient's weight-bearing status is weight bearing as 
tolerated on the operative extremity with no range of motion 
restrictions.  
 
Ms. ___ was discharged to rehab in stable condition.
 
Medications on Admission:
1. BuPROPion XL (Once Daily) 350 mg PO DAILY 
2. Lidocaine 5% Patch 1 PTCH TD QAM 
3. Metoclopramide 5 mg PO TID 
4. Allegra-D 24 Hour (fexofenadine-pseudoephedrine) 180-240 mg 
Oral DAILY 
5. ___ (norethindrone (contraceptive)) 0.35 mg oral QHS 
6. DiphenhydrAMINE ___ mg PO QHS 
7. triamcinolone acetonide 0.2 % topical BID 
8. cromolyn 4 % ophthalmic (eye) as needed 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H 
2.  Calcium Carbonate 500 mg PO TID:PRN heartburn  
3.  Docusate Sodium 100 mg PO BID 
4.  Famotidine 20 mg PO DAILY indigestion  
5.  Gabapentin 300 mg PO TID  
6.  HYDROmorphone (Dilaudid) ___ mg PO Q3H:PRN Pain 
7.  Senna 8.6 mg PO BID 
8.  ___  MD to order daily dose PO DAILY 
Goal INR 1.8-2.2 x 4 weeks  
9.  Allegra-D 24 Hour (fexofenadine-pseudoephedrine) 180-240 mg 
Oral DAILY  
10.  BuPROPion XL (Once Daily) 300 mg PO DAILY  
11.  ___ (norethindrone (contraceptive)) 0.35 mg oral QHS  
12.  cromolyn 4 % ophthalmic (eye) as needed  
13.  Lidocaine 5% Patch 1 PTCH TD QAM  
14.  Metoclopramide 5 mg PO TID  
15.  triamcinolone acetonide 0.2 % topical BID  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
right knee osteoarthritis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
1. Please return to the emergency department or notify your 
physician if you experience any of the following: severe pain 
not relieved by medication, increased swelling, decreased 
sensation, difficulty with movement, fevers greater than 101.5, 
shaking chills, increasing redness or drainage from the incision 
site, chest pain, shortness of breath or any other concerns.  
 
2. Please follow up with your primary physician regarding this 
admission and any new medications and refills.  
 
3. Resume your home medications unless otherwise instructed.  
 
4. You have been given medications for pain control. Please do 
not drive, operate heavy machinery, or drink alcohol while 
taking these medications. As your pain decreases, take fewer 
tablets and increase the time between doses. This medication can 
cause constipation, so you should drink plenty of water daily 
and take a stool softener (such as Colace) as needed to prevent 
this side effect. Call your surgeons office 3 days before you 
are out of medication so that it can be refilled. These 
medications cannot be called into your pharmacy and must be 
picked up in the clinic or mailed to your house. Please allow an 
extra 2 days if you would like your medication mailed to your 
home.  
 
5. You may not drive a car until cleared to do so by your 
surgeon.  
 
6. Please call your surgeon's office to schedule or confirm your 
follow-up appointment.  
 
7. SWELLING: Ice the operative joint 20 minutes at a time, 
especially after activity or physical therapy. Do not place ice 
directly on the skin. You may wrap the knee with an ace bandage 
for added compression. 
 
8. ANTICOAGULATION: Please continue Coumadin dosed daily based 
on your INR levels x 4 weeks.  INR goal 1.8-2.2.  Please arrange 
for outpatient follow-up for INR monitoring once discharged from 
rehab. 
 
9. WOUND CARE: Please change dressing daily with dry sterile 
dressing as needed for drainage.  It is okay to shower after 
surgery after 5 days, but no tub baths, swimming, or submerging 
your incision until after your four (4) week checkup. Please 
place a dry sterile dressing on the wound if there is drainage, 
otherwise leave it open to air. Check wound regularly for signs 
of infection such as redness or thick yellow drainage. Staples 
will be removed by your doctor at follow-up appointment 
approximately 2 weeks after surgery.  
 
10. ___ (once at home): Home ___, dressing changes as 
instructed, wound checks.  
 
11. ACTIVITY: Weight bearing as tolerated on the operative 
extremity. Mobilize. ROM as tolerated. No strenuous exercise or 
heavy lifting until follow up appointment.  
Physical Therapy:
WBAT RLE  
ROMAT  
Wean assistive device as able (i.e. 2 crutches or walker)  
Mobilize frequently  
Treatments Frequency:
daily dressing changes as needed for drainage  
wound checks daily  
ice  
staple removal and replace with steri-strips at follow up visit 
in clinic
 
Followup Instructions:
___